US09102625B2
To a mixture of 6-chloro-4-(3-(pyridine-2-yl)benzylamino)nicotinamide (82 mg, 0.24 mmol) in p-Dioxane (2.5 mL) was added 4-amino-N,N-dimethylbenzamide (51 mg, 0.31 mmol), Pd(OAc)2 (11 mg, 0.05 mmol), BINAP (30 mg, 0.05 mmol) and Cs2CO3 (234 mg, 0.72 mmol). After stirred at 80° C. for 15 h, it was concentrated and purified by preparative HPLC to give 6-(4-(dimethylcarbamoyl)phenylamino)-4-(3-(pyridine-2-yl)benzylamino)nicotinamide. MS found for C27H26N6O2 as (M+H)+ 467.4. UV: λ=259.2, 301.6 nm. 1H NMR: (CD3OD) δ 8.75 (dd, J=11.2, 5.2 Hz, 1H), 8.34 (m, 1H), 8.23 (d, J=5.6 Hz, 1H), 8.14 (m, 1H), 7.92 (m, 2H), 7.81-7.73 (m, 1H), 7.64 (m, 1H), 7.54 (m, 1H), 7.36 (dd, J=8.4, 2.8 Hz, 2H), 7.13 (dd, J=8.4, 2.8 Hz, 2H), 6.02 (d, J=1.6 Hz, 1H), 4.65 (d, J=2.0 Hz, 2H), 3.08 (s, 3H), 2.97 (s, 3H) ppm.

reactant | 6-chloro-4-(3-(pyridine-2-yl)benzylamino)nicotinamide | 0.24 mmol, 82 mg | ClC1=NC=C(C(=O)N)C(=C1)NCC1=CC(=CC=C1)C1=NC=CC=C1 | C18H15ClN4O
reactant | 4-amino-N,N-dimethylbenzamide | 0.31 mmol, 51 mg | NC1=CC=C(C(=O)N(C)C)C=C1 | C9H12N2O
reactant | BINAP | 0.05 mmol, 30 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | Cs2CO3 | 0.72 mmol, 234 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | p-Dioxane | 2.5 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(OAc)2 | 0.05 mmol, 11 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 6-(4-(dimethylcarbamoyl)phenylamino)-4-(3-(pyridine-2-yl)benzylamino)nicotinamide | CN(C(=O)C1=CC=C(C=C1)NC1=NC=C(C(=O)N)C(=C1)NCC1=CC(=CC=C1)C1=NC=CC=C1)C | C27H26N6O2
